US05478851
4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzaldehyde
Sodium hydride (60% dispersion in oil, 1.30 g) was added portionwise to a solution of 2-(N-benzoyl-N-methylamino)ethanol (5.0 g) in dry dimethylformamide (100 ml) at room temperature under a nitrogen atmosphere. The mixture was stirred at room temperature for 1 hour prior to the addition of 4-fluorobenzaldehyde (5.09 g, 4.4 ml), and the mixture then heated at 80° C. for 15 hours. The solvent was evaporated and the residue dissolved in water (500 ml) and extracted with ethyl acetate (3×500 ml). The combined ethyl acetate layers were washed with water (2×300 ml), brine (300 ml), dried (MgSO4) and evaporated to yield an oil. The oil was triturated with hexane, and the residue chromatographed on silica gel with 1.5% methanol in dichloromethane to afford the title compound as an oil.

reactant | Sodium hydride | 1.30 g | [H-].[Na+]
reactant | 2-(N-benzoyl-N-methylamino)ethanol | 5.0 g | C(C1=CC=CC=C1)(=O)N(C)CCO | C10H13NO2
reactant | 4-fluorobenzaldehyde | 4.4 ml, 5.09 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-[2-(N-Benzoyl-N-methylamino)ethoxy]benzaldehyde | C(C1=CC=CC=C1)(=O)N(C)CCOC1=CC=C(C=O)C=C1 | C17H17NO3
